US04017503
B. 1-[2-(2-n-Butoxyethoxy)ethoxycarbonyl]-2-(4-thiazolyl)-benzimidazole
32.9 G. (146 mmoles) of 2(2-n-Butoxyethoxy)-ethyl chloroformate is added dropwise to a stirred suspension of 24.9 g. (124 mmoles) of 2-(4-thiazolyl)-benzimidazole in 200 ml. of pyridine. The addition is complete in 40 minutes whereupon all of the starting material had dissolved. The reaction mixture is stirred for 16 hours at room temperature and filtered to remove pyridine hydrochloride which is washed with additional pyridine. The combined filtrate and washing are evaporated to dryness in vacuo affording a residual oil which is triturated with 300 ml. portions of ice water. The water is decanted and the residue extracted with 300 ml. of methylene chloride, filtered and the methylene chloride filtrates washed with 300 ml. of ice water, 250 ml. of 0.25 N HCl containing ice and 200 ml. of saturated sodium bicarbonate solution containing 50 ml. of ice. The organic fraction is dried, filtered and evaporated to dryness in vacuo affording 51.7 g. of a residual oil. The oil is extracted with petroleum ether whereupon a dark oil remains. The petroleum ether solution is decanted and the product separates therefrom as an oil. The petroleum ether is decanted and the remaining solvent is removed in vacuo affording 17.4 g. of a light yellow residual oil. Thin layer chromatography revealed a single spot which is confirmed by elemental analysis.

reactant | 2(2-n-Butoxyethoxy)-ethyl chloroformate | 146 mmoles | ClC(=O)OCCOCCOCCCC | C9H17ClO4
reactant | 2-(4-thiazolyl)-benzimidazole | 124 mmoles | S1C=NC(=C1)C=1NC2=C(N1)C=CC=C2 | C10H7N3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-[2-(2-n-Butoxyethoxy)ethoxycarbonyl]-2-(4-thiazolyl)-benzimidazole | C(CCC)OCCOCCOC(=O)N1C(=NC2=C1C=CC=C2)C=2N=CSC2 | C19H23N3O4S
